US08541575B2
N-tert-butyl-4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]pyridin-2-amine
580 mg (1.44 mmol) of 4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]pyridine 1-oxide were suspended in a mixture of 16 ml of trifluoromethylbenzene and 4 ml of dry dichloromethane and 756 μl of tert-butylamine were added. At 0° C. 936 mg (7.2 mmol) of p-toluensulfonic anhydride were added. After 6 hours under stirring in the same conditions the solvent was removed under reduced pressure, the residue partitioned between dichloromethane and water, the organic layer dried over sodium sulphate and evaporated. The crude was then purified by flash-chromatography on a silica gel column (CH2Cl2-CH3COCH3 19/1), giving 500 mg (75%) of the title compound.

reactant | 4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]pyridine 1-oxide | 1.44 mmol, 580 mg | COC1=CC=C(CN2N=C(C(=C2)C2=CC=[N+](C=C2)[O-])C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C22H18N4O4
reactant | tert-butylamine | 756 μl | C(C)(C)(C)N | C4H11N
reactant | p-toluensulfonic anhydride | 7.2 mmol, 936 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | trifluoromethylbenzene | 16 ml | FC(F)(F)C1=CC=CC=C1 | C7H5F3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-tert-butyl-4-[1-(4-methoxybenzyl)-3-(3-nitrophenyl)-1H-pyrazol-4-yl]pyridin-2-amine | 500 mg, 75% | C(C)(C)(C)NC1=NC=CC(=C1)C=1C(=NN(C1)CC1=CC=C(C=C1)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C26H27N5O3
